US08445530B2
2-{[5-Ethyl-4-(2-m-tolyl-ethoxy)-thiazole-2-carbonyl]-amino}-indane-2-carboxylic acid
5-Ethyl-4-hydroxy-thiazole-2-carboxylic acid ethyl ester (F. A. J. Kerdesky et al., J. Med. Chem. 34 (1991), 2158-2165) (100 mg, 0.497 mmol) was reacted with 2-m-tolyl-ethanol in analogy to step 1 of example 1 and subsequently the ester moiety hydrolyzed in analogy to example 2. The obtained carboxylic acid was reacted with 2-amino-indane-2-carboxylic acid methyl ester hydrochloride in analogy to step 2 of example 13 and the obtained ester hydrolyzed in analogy to example 2.

reactant | 5-Ethyl-4-hydroxy-thiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(N1)O)CC | C8H11NO3S
reactant | 2-m-tolyl-ethanol | C1(=CC(=CC=C1)CCO)C | C9H12O
reactant | 2-amino-indane-2-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1(CC2=CC=CC=C2C1)N
product | 2-{[5-Ethyl-4-(2-m-tolyl-ethoxy)-thiazole-2-carbonyl]-amino}-indane-2-carboxylic acid | C(C)C1=C(N=C(S1)C(=O)NC1(CC2=CC=CC=C2C1)C(=O)O)OCCC=1C=C(C=CC1)C | C25H26N2O4S
